US06180665B2
(S,S,S)-N-(1-[2-Carboxy-3-(N2-mesyllysylamino)propyl]-1-cyclopentylcarbonyl)tyrosine, β-form
(S,S,S)-N-(1-[2-Carboxy-3-(N2-mesyllysylamino)propyl]-1-cyclopentylcarbonyl)tyrosine hydrate (the δ-form, see Preparation 2) (20.0 g) was dissolved in water (250 ml) at room temperature and the clear solution frozen using a solid carbon dioxide/acetone bath. The solid mass was freeze dried to yield the title compound as a white solid (19.0 g). This material decomposed slowly over the temperature range 155-170° C.

reactant | (S,S,S)-N-(1-[2-Carboxy-3-(N2-mesyllysylamino)propyl]-1-cyclopentylcarbonyl)tyrosine hydrate | O.C(=O)(O)[C@@H](CC1(CCCC1)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)O)CNC([C@@H](NS(=O)(=O)C)CCCCN)=O
solvent | water | 250 ml | O | H2O
product | (S,S,S)-N-(1-[2-Carboxy-3-(N2-mesyllysylamino)propyl]-1-cyclopentylcarbonyl)tyrosine | 19.0 g | C(=O)(O)[C@@H](CC1(CCCC1)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)O)CNC([C@@H](NS(=O)(=O)C)CCCCN)=O | C26H40N4O9S
